US06664407B2
Preparation of N-methyl benzylamine (7)
A solution of benzaldehyde (2.0 ml, 20.0 mmol) and methylamine (2.0M in THF) (20.0 ml, 40.0 mmol) and methanol (20 ml) was stirred at room temperature for 20 h under a nitrogen atmosphere. Sodium borohydride (2.27 g, 60.0 mmol) was added to the solution and it was stirred at room temperature for 2 h. The solvent was removed out under reduced pressure and the residue dissolved in chloroform. The chloroform was washed with brine, and dried over magnesium sulphate. The solvent was removed under reduced pressure to yield a yellow oil (1.32 g, 55%).

reactant | benzaldehyde | 20.0 mmol, 2.0 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | methylamine | 40.0 mmol, 2.0M, 20.0 ml | CN | CH5N
reactant | Sodium borohydride | 60.0 mmol, 2.27 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N-methyl benzylamine | 1.32 g, 55% | CNCC1=CC=CC=C1 | C8H11N
